US05105021
According to the process, 0.1 mole of potassium salt of p-cresol is dissolved in dimethylformamide, a catalytic amount of propanethiol is added, dibromodifluoromethane is further added, and reacted at 20° to 30° C. for 4 hours to obtain p-(bromodifluoromethoxy) toluene in a 21% yield.

reactant | potassium | 0.1 mole | [K] | K
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | propanethiol | C(CC)S | C3H8S
reactant | dibromodifluoromethane | BrC(F)(F)Br | CBr2F2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | p-(bromodifluoromethoxy) toluene | 21% yield | BrC(OC1=CC=C(C=C1)C)(F)F | C8H7BrF2O
